US07446102B2
2(S)-Amino-3-(2-benzyloxy-5-iodophenyl)propionic acid hydrochloride
12 g (24.13 mmol) of 3-(2-benzyloxy-5-iodophenyl)-2(S)-tert-butoxycarbonylaminopropionic acid (Example (−)-6A) are added under argon into 60 ml of a 4M solution of hydrogen chloride in dioxane and stirred at RT for 2 h. The reaction solution is concentrated and dried under high vacuum.

reactant | 3-(2-benzyloxy-5-iodophenyl)-2(S)-tert-butoxycarbonylaminopropionic acid | 24.13 mmol, 12 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)I)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C21H24INO5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2(S)-Amino-3-(2-benzyloxy-5-iodophenyl)propionic acid hydrochloride | Cl.N[C@H](C(=O)O)CC1=C(C=CC(=C1)I)OCC1=CC=CC=C1 | InChI=1S/C16H16INO3.ClH/c17-13-6-7-15(12(8-13)9-14(18)16(19)20)21-10-11-4-2-1-3-5-11;/h1-8,14H,9-10,18H2,(H,19,20);1H/t14-;/m0./s1
